US07858796B2
(311) 5-phenyl-3-[1-(3-thienylsulfonyl)piperidin-4-yl]-1H-indole-7-carboxamide
To a solution of 5-Phenyl-3-(4-piperidinyl)-1H-indole-7-carboxamide (31 mg/0.067 mmol) in CHCl3 (1.0 ml) was added diisopropyl ethylamine (3 eq). The mixture was cooled to −10° C. and then added to 3-thiophenesulfonyl chloride. The solution was agitated for 1.5 h. Solid phase extraction (SPE) using an aminopropyl cartridge (500 mg) and elution with CHCl3 followed by ethyl acetate provided the title compound (19 mg 61%). LC/MS: m/z 465 Rt 2.29 min.

reactant | 5-Phenyl-3-(4-piperidinyl)-1H-indole-7-carboxamide | 0.067 mmol, 31 mg | C1(=CC=CC=C1)C=1C=C2C(=CNC2=C(C1)C(=O)N)C1CCNCC1 | C20H21N3O
reactant | diisopropyl ethylamine | 3 eq | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 3-thiophenesulfonyl chloride | S1C=C(C=C1)S(=O)(=O)Cl | C4H3ClO2S2
solvent | CHCl3 | 1.0 ml | C(Cl)(Cl)Cl | CHCl3
product | 5-phenyl-3-[1-(3-thienylsulfonyl)piperidin-4-yl]-1H-indole-7-carboxamide | 19 mg, 61% | C1(=CC=CC=C1)C=1C=C2C(=CNC2=C(C1)C(=O)N)C1CCN(CC1)S(=O)(=O)C1=CSC=C1 | C24H23N3O3S2
